US09126970B2
Step a): 10-Biphenyl-4-yl-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
20 g (70.58 mmol) of 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene and 24.6 g (105.87 mmol) of 4-bromobiphenyl are dissolved in toluene and degassed by introduction of a protective gas. 4.94 ml (4.94 mmol, 1 M solution in toluene) of tri-tert-butylphosphine, 633.8 mg (2.82 mmol) of Pd(OAc)2 and 10.2 g (105.87 mmol) of NaOtBu are subsequently added. The solids are degassed in advance, the reaction mixture is subsequently degassed, and then stirred under reflux for 3 h. The warm reaction solution is filtered through Alox B (activity grade 1), washed with water, dried and evaporated. Crystallisation from toluene gives 15.6 g (50.8%) of the product as a white solid having a purity of 99.7%.

reactant | 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene | 70.58 mmol, 20 g | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=CC=C3C1C2)C | C21H17N
reactant | 4-bromobiphenyl | 105.87 mmol, 24.6 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | tri-tert-butylphosphine | 4.94 mmol, 1 M, 4.94 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaOtBu | 105.87 mmol, 10.2 g | CC(C)(C)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 2.82 mmol, 633.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 10-Biphenyl-4-yl-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 15.6 g, 50.8% | C1(=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)C1=CC=CC=C1 | C33H25N
